US07094799B2
A 300 gal reactor was charged with water (150 L) and sodium hydroxide (100 kg) and the solution was cooled to 10±5° C. A second 300 gal reactor was charged with chloroform (203 kg), benzyltriethylammonium chloride (8.2 kg) and 4-tolualdehyde (99 kg). The reaction mixture was heated to gentle reflux and the sodium hydroxide solution was added at a rate to maintain reflux. After the addition, which took approximately 6 hours, reflux was continued for at least another 3 hours. The hot reaction solution was added to 500 L of cold water (5° C.) and the mixture was stirred for approximately 15 minutes. The phases were allowed to separate. The lower organic layer was transferred to a holding tank. The aqueous layer was washed with chloroform (1×72 kg then 4×20 kg) to remove any unreacted 4-tolualdehyde. The combined organic phases were saved for later reprocessing. The aqueous layer was acidified to pH 1 with concentrated HCl (48 kg) to precipitate 4-methylmandelic acid as a yellow granular solid. After stirring the slurry overnight the product was isolated by filtration, washed with water (150 L), and dried in vacuo at 60° C. for at least 24 hours. The process gives approximately 80 kg of 4-methylmandelic acid. To the chloroform extracts from above was added benzyltriethylammonium chloride (approximately 4.5 kg) and the mixture is heated at reflux. To the reaction mixture was added a solution of sodium hydroxide (50 kg) in water (75 L). After the addition was complete (at least 1.5 hrs) the reaction mixture was heated at reflux overnight. The hot reaction mixture was added to a reactor containing 250 kg of water at 5±5° C. The layers were allowed to separate and the lower organic layer was discarded. The aqueous layer was washed with chloroform (1×36 kg then 4×10 kg). The pH of the aqueous layer was adjusted to 0.5 to 1.5 with concentrated hydrochloric acid. The slurry was stirred overnight at 25±5° C. The product was isolated by filtration, washed with water (50 L) and dried in vacuo for at least 24 hours. This produced an additional 34 kg of 4-methylmandelic acid.

reactant | sodium hydroxide | 100 kg | [OH-].[Na+]
reactant | chloroform | 203 kg | C(Cl)(Cl)Cl | CHCl3
reactant | 4-tolualdehyde | 99 kg | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | water | 500 L | O | H2O
reactant | water | 150 L | O | H2O
catalyst | benzyltriethylammonium chloride | 8.2 kg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 4-methylmandelic acid | approximately 80 kg | CC1=CC=C(C(C(=O)O)O)C=C1 | C9H10O3
